US04797399
3-Amino-5-chloro-2-mercaptopyridine (18.8 g) was added to an ice-cooled solution of phosgene (30 g) in toluene (350 ml). 10% Aqueous solution of sodium hydroxide (300 ml) was added dropwise to the stirred mixtured for a period of 1 hour below 20° C. The final mixture was stirred for 1.5 hous at ambient temperature and then stirred for an additional 1 hour at 50° C. After cooling, the aqueous layer was adjusted to pH 4.0 with 4N hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide to give white powder of 6-chloro-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine (15.08 g).

reactant | 3-Amino-5-chloro-2-mercaptopyridine | 18.8 g | NC=1C(=NC=C(C1)Cl)S | C5H5ClN2S
reactant | phosgene | 30 g | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine | 15.08 g | ClC=1C=C2C(=NC1)SC(N2)=O | C6H3ClN2OS
